Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
hepatic flexure tubulovillous adenoma 
 
Major Surgical or Invasive Procedure:
lap extended right colectomy
Exploratory laparotomy, washout
 
History of Present Illness:
Ms. ___ is a ___ year-old woman, recently immigrated from ___
in ___, with a history of HBV (on entecavir), T2DM (A1c 
7.2%  ___ - on metformin), HTN/HLD, presenting for removal of 
polyp.
 
Past Medical History:
HTN 
T2DM (A1c 7.2% ___
HLD 
HBV (on entecavir)

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.
 
Physical Exam:
OBJECTIVE: 
___ 0747 Temp: 97.8 PO BP: 101/50 HR: 90 RR: 18 O2 sat: 97%
O2 delivery: RA FSBG: 233  
Physical exam:
Card: RRR
Pulm: unlabord breathing
GI: non-distended, non-tender, soft  
Wounds: mindline incisions dermabonded c/d/I, JP site with two 
nylon stitches in place. 
Ext: No edema, WWP
 
Pertinent Results:
___ 03:26PM   GLUCOSE-236* UREA N-16 CREAT-1.3* SODIUM-139 
POTASSIUM-3.6 CHLORIDE-104 TOTAL CO2-19* ANION GAP-16
___ 03:26PM   CALCIUM-7.9* PHOSPHATE-4.4 MAGNESIUM-2.5
___ 03:26PM   WBC-10.2* RBC-4.09 HGB-11.6 HCT-36.4 MCV-89 
MCH-28.4 MCHC-31.9* RDW-13.8 RDWSD-44.9
___ 03:26PM   PLT COUNT-96*
___ 03:26PM   ___ PTT-31.2 ___
___ 06:07AM BLOOD WBC-3.7* RBC-3.46* Hgb-9.8* Hct-30.4* 
MCV-88 MCH-28.3 MCHC-32.2 RDW-14.2 RDWSD-43.4 Plt Ct-88*
___ 06:05AM BLOOD WBC-4.5 RBC-3.45* Hgb-10.1* Hct-30.0* 
MCV-87 MCH-29.3 MCHC-33.7 RDW-14.2 RDWSD-43.5 Plt Ct-91*
___ 05:00AM BLOOD WBC-5.7 RBC-3.42* Hgb-9.8* Hct-29.9* 
MCV-87 MCH-28.7 MCHC-32.8 RDW-14.0 RDWSD-43.9 Plt Ct-89*
 
Brief Hospital Course:
Ms. ___ presented to ___ holding at ___ on ___ for 
a lap right colectomy for a colonic polyp. She tolerated the 
procedure well without complications (Please see operative note 
for further details). After a brief and uneventful stay in the 
PACU, the patient was transferred to the floor for further 
post-operative management. On POD#2 at 1100, code blue was 
called given unresponsiveness. Initially SBPs in ___ by 
palpation. Massive transfusion protocol was activated. BPs 
improved to 130s/40s with 1L NS and 1 unit pRBC. She also 
received Narcan, which didn't help. BPs stabilized, but remained 
altered. Went for pan-CT, which showed no brain bleed, and CT 
torso pending.
Went to OR for ex-lap, and had 1.7L blood (mixed with ascites) 
in abdominal cavity with no obvious site of bleeding. There were 
two areas of oozing: one near gallbladder fossa, and another 
near anastomosis staple line. Both sites were sutured and 
surgifoam applied. Received total of 2u pRBCs, 1u FFP, and a 
___ drain was placed. She did not require pressors, and 
made 400cc of urine.

#hemorrhagic shock: the patient was noted to have a downtrending 
H&H and on POD#2 was non-responsive and transiently hypotensive. 
CODE BLUE was initiated and she was resuscitated with IVF and 
1uPRBC, however labs at this point were notable for a hemoglobin 
of 5. BP improved to normal with resuscitation, and plans were 
made for operative exploration. Given persistent altered mental 
status, a CODE STROKE was initiated and the patient underwent 
imaging that did not reveal any evidence of acute intra-cranial 
injury, and mental status returned to baseline. She was 
subsequently taken to the operating room, where she was noted to 
have generalized venous oozing at the staple line and within an 
area of previous adhesions; 1.7L blood was evacuated and 
hemostasis obtained. She was taken to the ICU for stabilization, 
intubated and sedated. In total, she received 2uPRBC, 2uFFP and 
1uplatelets. She did not require pressors and her UOP remained 
appropriate. On ___ she was extubated uneventfully.

#delirium: in the setting of her ICU stay, the patient developed 
some transient delirium which resolved after two days out of the 
ICU. She got one dose of Haldol overnight in the ICU for this. 

Due to the patients high risk of bleeding, thrombocytopenia and 
liver disease we decided not to send the patient home on 
Lovenox. On ___, the patient was discharged to home. At 
discharge, she was tolerating a regular diet, passing flatus, 
voiding, and ambulating with assistance. She will follow-up in 
the clinic in ___ weeks. This information was communicated to 
the patient directly prior to discharge. She has adequate follow 
up with Vascular and ENT. 
Post-Surgical Complications During Inpatient Admission:
[ ] Post-Operative Ileus resolving w/o NGT
[ ] Post-Operative Ileus requiring management with NGT
[ ] UTI
[ ] Wound Infection
[ ] Anastomotic Leak
[ ] Staple Line Bleed
[ ] Congestive Heart failure
[ ] ARF
[ ] Acute Urinary retention, failure to void after Foley D/C'd
[ ] Acute Urinary Retention requiring discharge with Foley 
Catheter
[ ] DVT
[ ] Pneumonia
[ ] Abscess
[ ] None
[X] Bleeding requiring takeback to OR for evacuation of blood 
Social Issues Causing a Delay in Discharge:
[ ] Delay in organization of ___ services
[ ] Difficulty finding appropriate rehab hospital disposition.
[ ] Lack of insurance coverage for ___ services
[ ] Lack of insurance coverage for prescribed medications.
[ ] Family not agreeable to discharge plan.
[ ] Patient knowledge deficit related to ileostomy delaying 
dispo
[x] No social factors contributing in delay of discharge.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 80 mg PO QPM 
2. Entecavir 0.5 mg PO DAILY 
3. Lisinopril 20 mg PO DAILY 
4. MetFORMIN (Glucophage) 1000 mg PO BID 
5. Chlorthalidone 25 mg PO DAILY 

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 (One) tablet(s) by mouth every four (4) 
hours Disp #*12 Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM  
3.  Chlorthalidone 25 mg PO DAILY  
4.  Entecavir 0.5 mg PO DAILY  
5.  Lisinopril 20 mg PO DAILY  
6.  MetFORMIN (Glucophage) 1000 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Endoscopically unresectable polyp with high-grade dysplasia
Hemoperitoneum
Hemorrhagic shock
Cirrhosis 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital after a right colectomy for 
surgical management of your colonic polyp. You were taken back 
to the operating room due to bleeding complications. You have 
recovered from this procedure and you are now ready to return 
home.  
 
Please monitor your bowel function closely. You may or may not 
have had a bowel movement prior to discharge which is 
acceptable; however it is important that you have a bowel 
movement in the next ___ days. After anesthesia it is not 
uncommon for patients to have some decrease in bowel function 
but you should not have prolonged constipation. However, you may 
have loose stool and passing of small amounts of dark, old 
appearing blood. If you notice that you are passing bright red 
blood with bowel movements or having large amounts of loose 
stool without improvement please call the office or go to the 
emergency room. While taking narcotic pain medications you are 
at risk for constipation, please take an over the counter stool 
softener such as Colace.
 
You have one long vertical surgical incision on your abdomen 
which is closed with internal sutures.  It is important that you 
monitor this areas for signs and symptoms of infection 
including: increasing redness of the incision lines, 
white/green/yellow/foul smelling drainage, increased pain at the 
incision, increased warmth of the skin at the incision, or 
swelling of the area. You may shower; pat the incisions dry with 
a towel, do not rub. Please do not take a bath or swim until 
cleared by the surgical team.
 
Pain is expected after surgery. This will gradually improve over 
the first week or so you are home.  You should continue to take 
2 Extra Strength Tylenol (___) for pain every 8 hours around 
the clock. Please do not take more than 3000mg of Tylenol in 
24hours or any other medications that contain Tylenol such as 
cold medication. Do not drink alcohol while taking Tylenol.  You 
may also take Advil (Ibuprofen) 600mg every 8 hours for 7 days. 
Please take Advil with food. If these medications are not 
controlling your pain to a point where you can ambulate and 
perform minor tasks, you should take a dose of the narcotic pain 
medication.  Please do not take sedating medications, drink 
alcohol, or drive while taking the narcotic pain medication. 
 
You may feel weak or "washed out" for up to 6 weeks after 
surgery. Do not lift greater than a gallon of milk for 3 weeks. 
At your post op appointment, your surgical team will clear you 
for heavier exercise.  In the meantime, you may climb stairs and 
go outside and walk.  Please avoid traveling long distances 
until you speak with your surgical team at your post-op visit.   

 
Thank you for allowing us to participate in your care, we wish 
you all the best! 
 
Followup Instructions:
___